Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
LLE claudication, planned angiogram/PTA of LLE 
 
Major Surgical or Invasive Procedure:
___ LLE angiogram, PTA of existing L SFA stent, PTA of L 
peroneal artery, tPA lysis/thrombectomy of distal embolism 
intraop

 
History of Present Illness:
Mr. ___ is a ___ year old male w/ DM, HTN, HL, BPH, renal 
insuff and a history of claudication with recent b/l ___ angio 
and PTA of in-stent restenosis of R SFA stents w/ drug-coated 
balloons in ___ who p/f prehydration & planned PTA of LLE.

Patient was recently admitted for bilateral lower extremity 
angiography due to a ___ year history ___ claudication. He 
endorsed a history of claudication in the bilateral ___ after 
walking ___ blocks, with pain starting in his hip and down to 
his foot, L>R. Outpatient exam at that time was notable for 
distal pulses that were monophasic by Doppler, ABIs bilaterally 
0.73, which decreased to 0.38 on R and 0.47 on L with exertion. 
Wave form suggestive of moderate bilateral superficial femoral 
artery insufficiency at rest that was more severe with exercise. 
The patient was taken to the endovascular suite (___) and 
underwent bilateral angiography with PTA which which showed a 
patent right common femoral artery and profunda, patent SFA with 
patent previously placed SFA stents (proximal SFA stent as well 
as 2 stents in the distal SFA, 1 within the other). However, 
there was evidence of multiple areas of in-stent restenosis as 
well as focal areas of stenosis within the native SFA between 
the 2 stents, which were successfully treated with two 5 x ___ 
IMPACT Admiral drug-coated balloons. 

On the left, the L SFA was noted to have a distal SFA stent that 
was previously placed with areas of in-stent restenosis. 
Additionally, the left peroneal artery was the only patent 
vessel to the left, and was seen to reconstitute a posterior 
tibial artery. However, the images were of poor quality and 
because of patient's movement and poor cooperation, patients LLE 
was not treated, with plan to re-present for repeat ___ angiogram 
and LLE intervention.

Of note, angio in ___ noted that the posterior tibial artery 
was patent however the R peroneal and AT were occluded. 

On presentation to the floor, patient continues to endorse 
claudication in the left leg, which occurs after walking 
approximately ___ mile. Patient notes that his pain is ___ at 
rest, increases to a ___ with ambulation, and then increases to 
a ___ after walking approx ___ mile as noted above, with pain 
relieved by rest. Patient otherwise denied any other symptoms, 
with no chest pain, shortness of breath or radicular symptoms. 
Patient presents on this admission for prehydration for ___ angio 
planned for ___.

 
Past Medical History:
PMH: DM (on insulin), HTN, HL, BPH 
PSH: RLE stent ___, cataracts ___ 

 
Social History:
___
Family History:
DM, HTN
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
========================
VS: T97.5 HR 67 BP 194/66 RR19 98% RA
GEN: elderly male in no acute distress, AOx3
HEENT: No scleral icterus, EOMI, mucus membranes moist
CV: RRR
PULM: Clear to auscultation bilaterally, No respiratory distress
ABD: Soft, nondistended, nontender, no rebound tenderness or 
guarding
Ext: 1+ edema R>L, warm and well perfused
Skin: R groin hematoma without active bleeding, nontender, 
stable size
Pulses: 
   R: Femoral palpable; popliteal, DP and ___ dopplearable
   L: Femoral palpable; popliteal, DP and ___ dopplearable
 
Pertinent Results:
Preadmission Labs:
===================
___ 07:15PM BLOOD WBC-7.1 RBC-4.03* Hgb-12.0* Hct-36.1* 
MCV-90 MCH-29.8 MCHC-33.2 RDW-12.7 RDWSD-42.0 Plt ___
___ 07:15PM BLOOD ___ PTT-27.0 ___
___ 07:15PM BLOOD Glucose-522* UreaN-44* Creat-2.5* Na-130* 
K-4.8 Cl-96 HCO3-22 AnGap-17
___ 07:15PM BLOOD Calcium-8.7 Phos-3.5
___ 12:55PM BLOOD %HbA1c-9.6* eAG-229*
___ 12:55PM BLOOD Triglyc-64 HDL-77 CHOL/HD-2.3 LDLcalc-90

DISCHARGE LABS:
===============
___ 07:45AM BLOOD WBC-10.1* RBC-3.96* Hgb-11.8* Hct-35.6* 
MCV-90 MCH-29.8 MCHC-33.1 RDW-13.7 RDWSD-45.0 Plt ___
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD ___ PTT-26.2 ___
___ 07:45AM BLOOD Glucose-174* UreaN-50* Creat-2.8* Na-135 
K-5.1 Cl-101 HCO3-20* AnGap-19
___ 07:45AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ year old male w/ DM, HTN, HL, BPH, renal 
insuff and a history of L>R claudication with recent b/l ___ 
angio in ___ with evidence of both R and L SFA in-stent 
stenosis with PTA of R SFA in-stent restenosis w/ drug-coated 
balloons on that admission, who presents on this admission for 
prehydration for LLE angio. Patients right SFA was intervened on 
during prior ___ angiogram, however due to patients inability to 
fully tolerate the above procedure and movement resulting in 
poor quality images of the LLE, his LLE was not intervened upon 
at that time. Patient represented on this admission for LLE 
angiogram, and is now s/p PTA of L SFA stent with DCB for 
in-stent restenosis and PTA of L peroneal artery with procedure 
c/b distal embolism, s/p successful Angiojet tPA 
thrombolysis/thrombectomy.

As noted above, patient who was admitted to the ___ 
___ for ___ IV hydration starting 
___ prior to ___ angiogram. The patient was taken to the 
endovascular suite and underwent PTA of L SFA stent with DCB for 
in-stent restenosis, as well as PTA of L peroneal artery. 
Intraop, patients procedure was complicated by a distal embolism 
which was successfully treated with Angiojet tPA 
thrombolysis/thrombectomy. Following the procedure, patients R 
groin was perclosed, and he was Plavix loaded 300mg in OR. For 
full details of the procedure, please see the surgeon's 
operative note. Patient will continue on Plavix 75mg daily for 
90 days. 

The patient tolerated the procedure well without complications 
and was brought to the postanesthesia care unit in stable 
condition. After a brief stay, the patient was transferred to 
the vascular surgery floor where he remained throughout the rest 
of the hospitalization. Patient had bleeding at the R groin 
access site, with evidence of a small groin hematoma. Pressure 
was held and bleeding was successfully controlled, and patients 
groin access site was redressed without further evidence of 
recurrence. 

Postoperatively, he was able to tolerate a regular diet, get out 
of bed and ambulate without assistance, void without issues, and 
pain was
controlled on oral medications alone. He was deemed ready for 
discharge, and was given the appropriate discharge and followup
instructions.

Transitional issues:
====================
[] Please ensure patient takes Plavix 75mg daily for 90 days 
post L PTA (start date ___, end date: ___
[] Please continue to monitor patients R groin wound access 
site. Pt had bleeding from femoral access, with pressure held 
and no further recurrence of bleeding. Pt has a small stable 
size hematoma at the time of discharge. 
[] Please recheck patients Chem10 by ___ to ensure 
stabilization of Cr. Pt was given pre- and post- contrast 
hydration, and his Cr was 2.5 at the time of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Cilostazol 50 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Finasteride 5 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Losartan Potassium 50 mg PO DAILY 
7. Metoprolol Tartrate 50 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Glargine 12 Units Bedtime

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every 6 hours 
Disp #*60 Tablet Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Cilostazol 50 mg PO DAILY  
5.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0 
6.  Finasteride 5 mg PO DAILY  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  Glargine 12 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
9.  Losartan Potassium 50 mg PO DAILY  
10.  Metoprolol Tartrate 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- L SFA in-stent stenosis s/p PTA of L SFA with drug coated 
balloons
- PTA of L peroneal artery w/ drug coated balloons
- tPA lysis/thrombectomy of distal embolism intraoperatively 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ and 
underwent a left lower extremity angiogram, balloon angioplasty 
(PTA) of your existing L SFA stent and balloon angioplasty (PTA) 
of the L peroneal artery to help improve your left sided leg 
pain. Your case was complicated by a distal embolism that was 
successfully treated with tPA lysis/thrombectomy 
intraoperatively. After recovery in the PACU and on the floor, 
you have continued to progress with good lower extremity pulse 
signals. Now that you have recovered from surgery, you are now 
ready to be discharged. 

Please follow the instructions below to continue
your recovery:

Lower Extremity Angioplasty/Stent Discharge Instructions
MEDICATION:
• Take Aspirin once daily
• If instructed, take Plavix (Clopidogrel) 75mg once daily 
(planned duration: 90 days)
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort WHAT

TO EXPECT:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low
cholesterol) to maintain your strength and assist in wound 
healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
• When you go home, you may walk and use stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then
place a dry dressing or band aid over the area
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions 
• Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call ___ 
for transfer to closest Emergency Room.
 
Followup Instructions:
___